US07314937B2
2-(4-Fluoro-benzenesulfonyl)-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline hydrochloride is prepared from 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride (158 mg, 0.45 mmol), NEt3 (0.21 mL, 1.5 mmol), and 4-fluorobenzenesulfonyl chloride (115 mg, 0.55 mmol) via a procedure substantially analogous to Procedure F except that an additional SCX column purification step is performed to give 140 mg of free base product. The free base is converted to the HCl salt (150 mg, 71% yld) via a procedure substantially analogous Procedure D. MS (ES+)433.2(M+H)+ free base.

reactant | 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride | 0.45 mmol, 158 mg | Cl.Cl.N1(CCCCC1)CCCOC1=CC=C2CCNCC2=C1
reactant | NEt3 | 1.5 mmol, 0.21 mL | CCN(CC)CC | C6H15N
reactant | 4-fluorobenzenesulfonyl chloride | 0.55 mmol, 115 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 2-(4-Fluoro-benzenesulfonyl)-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline hydrochloride | Cl.FC1=CC=C(C=C1)S(=O)(=O)N1CC2=CC(=CC=C2CC1)OCCCN1CCCCC1 | InChI=1S/C23H29FN2O3S.ClH/c24-21-6-9-23(10-7-21)30(27,28)26-15-11-19-5-8-22(17-20(19)18-26)29-16-4-14-25-12-2-1-3-13-25;/h5-10,17H,1-4,11-16,18H2;1H
